2169-10-12 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2169-10-11**] 06:14 PM
   Presep Catheter placed in ED
   Admitted to MICU, started on Vanc (one dose), flagyl, levofloxacin.
   Given aggressive IVF with normal saline and D5W.  Sodium improved to
   153 from 158, Cr improved from 4.3 to 3.3, Hct fell from 34.6 to 21.1.
   Transfused 1 unit PRBCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 08:22 PM
   Metronidazole - [**2169-10-11**] 11:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-10-11**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-11**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: Tube feeds
   Respiratory: Cough
   Genitourinary: Foley
   Flowsheet Data as of  [**2169-10-12**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 96 (93 - 120) bpm
   BP: 94/42(55) {89/42(54) - 119/82(86)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 96%
    CVP: 5 (0 - 5)mmHg
   Mixed Venous O2% Sat: 76 - 76
                                Total In:
                                                                  5,528 mL
                                                                  1,856 mL
   PO:
                                TF:
   IVF:
                                                                  2,528 mL
                                                                  1,856 mL
   Blood products:
   Total out:
                                                                     90 mL
                                                                    360 mL
   Urine:
                                                                     90 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,438 mL
                                                                  1,496 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.49/40/90.[**Numeric Identifier 299**]/28/6
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Wheezes : occ exp, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, sacral and heel ulcers
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   6.6 g/dL
   149 mg/dL
   3.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   86 mg/dL
   116 mEq/L
   151 mEq/L
   21.1 %
   23.0 K/uL
        [image002.jpg]
                             [**2169-10-11**]  05:15 PM
                             [**2169-10-11**]  07:15 PM
                             [**2169-10-11**]  08:46 PM
                             [**2169-10-12**]  01:46 AM
                             [**2169-10-12**]  05:53 AM
   WBC
   28.8
   31.8
   23.0
   Hct
   24.5
   25.1
   21.1
   Plt
   463
   455
   366
   Cr
   3.6
   3.8
   3.5
   TropT
   0.05
   TCO2
   31
   Glucose
   150
   219
   149
   Other labs: CK / CKMB / Troponin-T:41//0.05, Amylase / Lipase:157/13,
   Differential-Neuts:92.4 %, Band:0.0 %, Lymph:5.9 %, Mono:1.6 %, Eos:0.0
   %, Lactic Acid:2.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   79M with h/o dementia presents with sepsis, PNA, hypovolemia and severe
   metabolic derangements.
   #. Shock: with components of Sepsis and hypovolmia. Has known lingular
   PNA as one source of infection.  Sepsis and dehydration are likely
   contributing to his remarkably elevated lactate, however, given his
   guaic + stool and abdominal pain, mesenteric ischemia is also on the
   differential diagnosis; he has a h/o rectal abscess as well.
   -received levo/ceftriaxone in ED; continue levo/flagyl/vanco (renal
   dose)-->concern for aspiration PNA in this pt w/ dementia, also will
   cover bowel flora
   -aggressive volume resuscitation as below.
   -send UA
   -blood, sputum, stool and urine cultures pending
   -serial abd exams
   -consider surgery consult,
   -consider CT abd (though cannot perform CTA given ARF)
   .
   #. Hypernatremia- likely hypovolemic; free water deficit = 5.6 liters.
   Goal to lower by 0.5 meq/L per hour and no more than by 12 meq/L in the
   first 24 hours for a goal of no lower than 146 tomorrow afternoon.  CVP
   currently = 4, so needs volume resucitation as well, though need to
   carefully monitor respiratory status.
   -NS IV at 200cc/hr to goal CVP of 8
   -D5W at 125 cc/hr
   -serial lytes (q4-6h); adjust IVF rates based on response.
   .
   #acid base: recent abg: 7.49/40/90. likely represents triple
   disturbance with profound metabolic alkalosis (contraction),
   respiratory acidosis, and metabolic acidosis (resolving, lactate
   11->2.7, anion gap closed).
   -volume resuscitation, which will treat contraction alkalosis and ARF
   -treat infection as above
   .
   #. ARF: baseline Cr = 1.1, likely prerenal in setting of profound
   dehydration.
   -aggressive fluid resuscitation
   -trend
   -avoid nephrotoxins
   .
   #
   # Leukocytosis- baseline WBC's 15, chose not to work up as outpt.
   Current elevation [**3-4**] PNA/sepsis
   -trend
   -f/u sputum, stool, blood, urine cultures
   .
   #Decub ulcers: sacral and b/l heel ulcers
   -wound care
   #Anemia- baseline Hct 26-28, currently 24.5 (from 34.6 on admit with
   5LNS).  Pt is guaic +.
   -avoid systemic anticoagulation
   -transfuse for Hct <21 or further hct drop with continued volume
   resuscitation
   -resume iron when taking po's
   .
   # Elevated troponin- Ck normal, no ekg changes. trop likely elevated in
   setting of ARF as well as perhaps component of demand ischemia in
   setting of tachycardia and shock.
   -trend
   -repeat EKG in AM
   .
   #hypothyroid- continue levothyroxine
   #dementia/agitation- continue seroquel
   .
   #Chronic issues: Include depression, htn, hyperlipidemia:
   -holding SSRI, antihypertensives, vitamins, statin, diuretics in
   setting of shock/inability to take PO.
   -Will need to add these meds on as able as pt stabilizes.
   .
   ACCESS: CVL
   NUTRITION: IVF, lyte repletion, NPO for now
   PPX: SC heparin, PPI
   DISPO: ICU
   CODE: DNR/DNI
   COMM: The patient's daughter [**Name (NI) 557**] [**Name (NI) 622**] is his healthcare proxy;
   phone numbers are [**Telephone/Fax (1) 623**] and [**Telephone/Fax (1) 624**]
   ICU Care
   Nutrition:
   Comments: NPO/IVF/Follow and replete lytes
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-10-11**] 06:14 PM
   16 Gauge - [**2169-10-11**] 06:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:

2169-10-12 10:18:00 Physician Attending Progress Note
Chief Complaint: lethargy
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo man with a h/o dementia and Crohn's disease presenting with
   hypovolemic and septic shock, with high lactate, pneumonia.
   24 Hour Events:
 MULTI LUMEN - START [**2169-10-11**] 06:14 PM
   Presep Catheter
   Received total 8L IVF (both NS & D5W).
   Hypernatremia slowly improving.
   UOP improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 08:22 PM
   Metronidazole - [**2169-10-12**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-10-11**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-12**] 08:50 AM
   Other medications:
   levofloxacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-12**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 93 (93 - 120) bpm
   BP: 107/47(63) {89/42(54) - 119/82(86)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (0 - 11)mmHg
   Mixed Venous O2% Sat: 76 - 76
                               Total In:
                                                                  5,528 mL
                                                                  3,003 mL
   PO:
                               TF:
   IVF:
                                                                  2,528 mL
                                                                  2,738 mL
   Blood products:
   265 mL
   Total out:
                                                                     90 mL
                                                                    640 mL
   Urine:
                                                                     90 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,438 mL
                                                                  2,363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 98%
   ABG: 7.49/40/90.[**Numeric Identifier 299**]/28/6
   Physical Examination
   General Appearance: No acute distress, appears more comfortable than
   yesterday
   Head, Ears, Nose, Throat: MM dry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   6.6 g/dL
   366 K/uL
   95 mg/dL
   3.3 mg/dL
   28 mEq/L
   3.6 mEq/L
   84 mg/dL
   118 mEq/L
   153 mEq/L
   21.1 %
   23.0 K/uL
        [image002.jpg]
                             [**2169-10-11**]  05:15 PM
                             [**2169-10-11**]  07:15 PM
                             [**2169-10-11**]  08:46 PM
                             [**2169-10-12**]  01:46 AM
                             [**2169-10-12**]  05:53 AM
   WBC
   28.8
   31.8
   23.0
   Hct
   24.5
   25.1
   21.1
   Plt
   463
   455
   366
   Cr
   3.6
   3.8
   3.5
   3.3
   TropT
   0.05
   TCO2
   31
   Glucose
   150
   219
   149
   95
   Other labs: PT / PTT / INR:16.8/35.3/1.5, CK / CKMB /
   Troponin-T:41//0.05, Amylase / Lipase:157/13, Differential-Neuts:92.4
   %, Band:0.0 %, Lymph:5.9 %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:2.7
   mmol/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR with mild increase in lingular infiltrate
   Microbiology: Blood, urine, sputum cx pending
   Assessment and Plan
   79 yo man with a h/o dementia and Crohn's disease presenting with
   hypovolemic and septic shock, with high lactate, pneumonia.
   1. Shock: Combination of septic shock and hypovolemia.  Now improving
   s/p volume resuscitation.
   - giving blood currently for volume, given Hct drop to 21
   - cont vanc/levo/flagyl
   - likely source was pneumonia, however concern for bowel source given
   abd pain and elevated lactate.  Both of these have improved; will
   follow.
   2. Hypernatremia: Initial free water deficit around 6 L.  Will continue
   to replete with D5W, check pm sodium.
   3. Elevated Lactate:  Improving.  Abd exam benign.  Likely related to
   sepsis.
   4. Elevated troponin: Likely demand.  Improving.
   5. Renal Failure:  Creatinine and UOP both improved this AM.
   ICU Care
   Nutrition:
   Comments: will place NGT for nutrition
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2169-10-11**] 06:14 PM
   16 Gauge - [**2169-10-11**] 06:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 min

2169-10-13 10:16:00 Physician Attending Progress Note
Chief Complaint: hypovolemia, septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo man with a h/o dementia and Crohn's disease presenting with
   hypovolemic and septic shock, with high lactate, pneumonia.
   24 Hour Events:
   - short runs of SVT overnight
   - transfused for Hct 21
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 08:22 PM
   Levofloxacin - [**2169-10-12**] 04:10 PM
   Metronidazole - [**2169-10-13**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-12**] 10:00 PM
   Other medications:
   insulin sliding scale, protonix, synthroid, seroquel, free water
   boluses 200 cc q4h, iron, atorvastatin, lexapro, D5W at 175/hr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-13**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 112 (93 - 112) bpm
   BP: 105/56(67) {97/45(60) - 126/60(70)} mmHg
   RR: 26 (12 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 10 (5 - 16)mmHg
   Total In:
                                                                  5,446 mL
                                                                  2,052 mL
   PO:
   TF:
                                                                     96 mL
   IVF:
                                                                  5,071 mL
                                                                  1,156 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,855 mL
                                                                    850 mL
   Urine:
                                                                  1,855 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,591 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L NC
   SpO2: 97%
   Physical Examination
   General Appearance: No acute distress, Thin, actively gurgling on
   secretions
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), coarse upper airway sounds
   throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   315 K/uL
   113 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.2 mEq/L
   61 mg/dL
   108 mEq/L
   142 mEq/L
   24.8 %
   20.7 K/uL
        [image002.jpg]
                             [**2169-10-11**]  05:15 PM
                             [**2169-10-11**]  07:15 PM
                             [**2169-10-11**]  08:46 PM
                             [**2169-10-12**]  01:46 AM
                             [**2169-10-12**]  05:53 AM
                             [**2169-10-12**]  11:06 AM
                             [**2169-10-12**]  05:31 PM
                             [**2169-10-13**]  06:04 AM
   WBC
   28.8
   31.8
   23.0
   20.7
   Hct
   24.5
   25.1
   21.1
   24.6
   24.8
   Plt
   463
   455
   366
   315
   Cr
   3.6
   3.8
   3.5
   3.3
   2.9
   2.6
   2.0
   TropT
   0.05
   TCO2
   31
   Glucose
   150
   219
   149
   95
   109
   128
   113
   Other labs: PT / PTT / INR:15.9/38.0/1.4, CK / CKMB /
   Troponin-T:41//0.05, Amylase / Lipase:157/13, Differential-Neuts:92.4
   %, Band:0.0 %, Lymph:5.9 %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: bilateral lower lobe infiltrates, interstitial edema
   Microbiology: blood, urine, NGTD
   stool C.diff negative
   Assessment and Plan
   79 yo man with a h/o dementia and Crohn's disease presenting with
   hypovolemic and septic shock, with high lactate, pneumonia.  Now
   metabolic disarray has improved, volume status trending towards
   euvolemia.
   1. Shock: Combination of septic shock and hypovolemia.  Now improving
   s/p volume resuscitation.
   - cont vanc/levo for 10 day course, d/c flagyl
   - likely source was pneumonia, probably aspirating given weak cough and
   oral secretions
   2. Hypernatremia: Improved.   Give free water via NGT, d/c IV D5W.
   3. Renal Failure:  Creatinine continues to improve.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-10-13**] 12:25 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2169-10-11**] 06:14 PM
   16 Gauge - [**2169-10-11**] 06:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 min

2169-10-14 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          flagyl was discontinued as low suspicion of GI source
   -          sodium normalized, so IV D5 discontinued, free water boluses
   discontinued
   -          patient tachycardic, restarted on metoprolol 25mg [**Hospital1 **] ->
   25mg TID (on Toprol XL 25mg daily at home)
   -          sputum culture resent
   -          renal failure improving, vanc and levofloxacin redosed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 08:22 PM
   Levofloxacin - [**2169-10-12**] 04:10 PM
   Metronidazole - [**2169-10-13**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-10-13**] 08:36 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-13**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-14**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 107 (98 - 120) bpm
   BP: 106/56(69) {79/39(49) - 116/58(69)} mmHg
   RR: 32 (21 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  3,316 mL
                                                                    273 mL
   PO:
   TF:
                                                                    353 mL
                                                                    205 mL
   IVF:
                                                                  2,083 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    305 mL
   Urine:
                                                                  2,340 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    976 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: NAD
   HEENT: MMM
   PULM: rhonchorous throughout, diminished at bases
   CV: RRR, tachy
   ABD: soft, NT/ND NABS
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin: ulcer over sarum, b/l heels
   Labs / Radiology
   327 K/uL
   8.1 g/dL
   101 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   49 mg/dL
   108 mEq/L
   141 mEq/L
   25.4 %
   17.2 K/uL
        [image002.jpg]
                             [**2169-10-11**]  05:15 PM
                             [**2169-10-11**]  07:15 PM
                             [**2169-10-11**]  08:46 PM
                             [**2169-10-12**]  01:46 AM
                             [**2169-10-12**]  05:53 AM
                             [**2169-10-12**]  11:06 AM
                             [**2169-10-12**]  05:31 PM
                             [**2169-10-13**]  06:04 AM
                             [**2169-10-14**]  03:57 AM
   WBC
   28.8
   31.8
   23.0
   20.7
   17.2
   Hct
   24.5
   25.1
   21.1
   24.6
   24.8
   25.4
   Plt
   463
   455
   366
   315
   327
   Cr
   3.6
   3.8
   3.5
   3.3
   2.9
   2.6
   2.0
   1.7
   TropT
   0.05
   TCO2
   31
   Glucose
   150
   219
   149
   95
   109
   128
   113
   101
   Other labs: PT / PTT / INR:15.9/38.0/1.4, CK / CKMB /
   Troponin-T:41//0.05, Amylase / Lipase:157/13, Differential-Neuts:92.4
   %, Band:0.0 %, Lymph:5.9 %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   MICRO: sputum: 2+GPC, 2+ yeast, 1+ GNR, 1+ thin branching GNRs
   [**10-14**] CXR: lingular PNA. Increase in b/l pleural effusions
   Assessment and Plan
   79M with h/o dementia present with primary hypovolemic shock, also with
   PNA now improving with fluid resuscitation and antibiotics.
   #. Hypovolemic Shock: Resolved.  Likely due in large part to poor PO
   intake at home
currently with NGT in place
   - fluid boluses prn to keep MAP>60
   -need speech and swallow eval
   -need family meeting after S+S eval
may be candidate for PEG, but this
   is not likely consistent with goals of care.
   -emailed PCP ([**First Name4 (NamePattern1) 684**] [**Last Name (NamePattern1) 685**])
 on vacation , but will be back on Monday
   # PNA: Patient with continued RML/RLL infiltrate. On vanc/levo, flagyl
   discontinued yesterday. WBC improving (baseline WBC is 15), Afebrile
   overnight. Cultures without any growth but sputum sample from [**10-12**] with
   contamination.  Effusions likely [**3-4**] aggressive volume resuscitation;
   would not diurese unless increase in O2 requirement.
   - continue vanco/levo
   - resend sputum culture, and tailor abx to culture data
   - aggressive suctioning
   - chest PT
   #. Hypernatremia- hypovolemic. Resolved  with free water boluses and
   D5W
   - can discontinue D5W and decrease free water boluses
   - continue to trend Na
   #. ARF: baseline Cr = 1.1, likely prerenal in setting of profound
   dehydration.  Has been decreasing with fluids, still not back at
   baseline
   - boluses prn
   - start tube feeds for fluid and nutrition
   - redose antibiotics for renal function
   .
   #Decub ulcers: sacral and b/l heel ulcers
   -wound care
   -Kinair bed
   #Anemia- baseline Hct 26-28, currently 24.5 (from 34.6 on admit with
   5LNS).  Pt is guaic +. s/p transfusion of 1 unit PRBC, bumped
   appropriately from 21 to 24
   -avoid systemic anticoagulation
   -continue Fe supplementation
   - trend [**Hospital1 **] Hct, transfuse for <21 or brisk bleeding
   # Elevated troponin- Ck normal, no ekg changes. trop likely elevated in
   setting of ARF as well as perhaps component of demand ischemia in
   setting of tachycardia and shock.   Trended down with repeat check.
   #hypothyroid- continue levothyroxine
   #dementia/agitation- continue seroquel
   #Chronic issues: Include depression, htn, hyperlipidemia:
   -continue home medications via NGT
   NUTRITION: Tube feeds, pending nutrition recs
   PPX: SC heparin, PPI
   DISPO: call out to geriatrics
   CODE: DNR/DNI
   COMM: The patient's daughter [**Name (NI) 557**] [**Name (NI) 622**] is his healthcare proxy;
   phone numbers are [**Telephone/Fax (1) 623**] and [**Telephone/Fax (1) 624**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-10-13**] 01:05 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-10-11**] 06:14 PM
   16 Gauge - [**2169-10-11**] 06:17 PM
   Prophylaxis:
   DVT:  hep SC
   Stress ulcer:  PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: call out

2169-10-14 11:03:00 Physician Attending Progress Note
Chief Complaint: pna, sepsis, hypernatremia
   HPI:
   24 Hour Events:
   Abx redosed
   m.s. improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 08:22 PM
   Levofloxacin - [**2169-10-12**] 04:10 PM
   Metronidazole - [**2169-10-13**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-10-13**] 08:36 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-14**] 09:48 AM
   Other medications:
   SSI, Levothyroxine, Seroquel, Fe, Free water, Metoprolol,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-14**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 86 (86 - 120) bpm
   BP: 100/48(59) {79/39(49) - 116/58(69)} mmHg
   RR: 27 (26 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  3,316 mL
                                                                    661 mL
   PO:
   TF:
                                                                    353 mL
                                                                    317 mL
   IVF:
                                                                  2,083 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    425 mL
   Urine:
                                                                  2,340 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    976 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to hear due to
   rhonchi
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bilateral at bases, Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   327 K/uL
   101 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   49 mg/dL
   108 mEq/L
   141 mEq/L
   25.4 %
   17.2 K/uL
        [image002.jpg]
                             [**2169-10-11**]  05:15 PM
                             [**2169-10-11**]  07:15 PM
                             [**2169-10-11**]  08:46 PM
                             [**2169-10-12**]  01:46 AM
                             [**2169-10-12**]  05:53 AM
                             [**2169-10-12**]  11:06 AM
                             [**2169-10-12**]  05:31 PM
                             [**2169-10-13**]  06:04 AM
                             [**2169-10-14**]  03:57 AM
   WBC
   28.8
   31.8
   23.0
   20.7
   17.2
   Hct
   24.5
   25.1
   21.1
   24.6
   24.8
   25.4
   Plt
   463
   455
   366
   315
   327
   Cr
   3.6
   3.8
   3.5
   3.3
   2.9
   2.6
   2.0
   1.7
   TropT
   0.05
   TCO2
   31
   Glucose
   150
   219
   149
   95
   109
   128
   113
   101
   Other labs: PT / PTT / INR:15.9/38.0/1.4, CK / CKMB /
   Troponin-T:41//0.05, Amylase / Lipase:157/13, Differential-Neuts:92.4
   %, Band:0.0 %, Lymph:5.9 %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Microbiology: sputum- mixed GS
   Assessment and Plan
   1)CV- Hypovolemic shock, resolved with IVFs
   2)Pulm- pna with increasing pleural effusions. Cont Vanc/Levo, shovel
   mask. Would add Chest PT, encourage cough as able.
   3)Renal- ARF, improving
   4)[**Name (NI) 705**] unclear exact  baseline, but seems to still be much worse.
   Likely due to pna, follow.
   5)FEN- Speech and swallow. on TFs now.
   6)dispo- to floor
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-10-13**] 01:05 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-10-11**] 06:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes